Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine,sulfa
 
Attending: ___.
 
Chief Complaint:
Weakness over several weeks
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is a ___ year old female visiting her daughter in 
___ from ___ - she presents with subacute weakness 
- most remarkably, inability to urinate over the last 2 weeks.

2 weeks ago, on ___, she was seen in clinic and was 
unable to urinate - a Foley was placed at that time, and was 
removed this morning.   She was able to urinate after Foley 
removal.   

However, she presented to the ED given continued weakness that 
began several weeks ago, around the time of her inability to 
urinate, characterized by difficulty walking, especially a 
veering of gait to the left.   

She had a colonoscopy and endoscopy five days prior to 
presentation for anemia although these were reportedly normal.  
Following bowel prep, three days prior to presentation 
apparently passed out while on the toilet; her daughter whom she 
is visiting urged her to come to the ED given subacute weakness 
and her syncope.

Her PO intake has been normal, although stably low - she lost 
about 30 lbs in the last several months.

In ___, she was diagnosed with giant cell arteritis with 
positive temporal artery biopsy, resulting in some loss of 
peripheral vision, for which she has been managed on a slow 
prednisone taper.   She is followed by an ophthalmologist and 
rheumatologist in ___.

ROS otherwise positive for significant anxiety regarding her 
presentation, and constipation (hasn't moved her bowels in the 
last five days).

Otherwise, ROS negative for chest pain/pressure, shortness of 
breath, abdominal pain, nausea, vomiting, diarrhea.  

In the ED, she was evaluated by neurology who noted diminished 
sensation of
the left leg, which, in context of bladder hypocontractility may 
represent a myelopathy.   

She was also found to have a +UA.

She was admitted to medicine for further workup.

 
Past Medical History:
Giant Cell Arteritis
Anxiety
Prednisone-induced hyperglycemia
Urinary retention of unclear etiology

 
Social History:
___
Family History:
NC
 
Physical Exam:
VS reviewed and WNL
GEN:  Caucasian female in NAD
HEENT: Anicteric, EOMI
Neck: supple
cardiac: Systolic ejection murmur radiating to aorta II/VI
Pulm: clear bilaterally
Abd: soft NT ND + BS
Ext: warm and well perfused

 
Pertinent Results:
___ 06:52PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 06:52PM URINE  BLOOD-TR NITRITE-POS PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG
___ 06:52PM URINE  RBC-23* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-1
___ 06:52PM URINE  WBCCLUMP-FEW MUCOUS-RARE
___ 11:54AM   ___ COMMENTS-GREEN TOP
___ 11:54AM   LACTATE-2.1*
___ 11:40AM   GLUCOSE-275* UREA N-18 CREAT-1.1 SODIUM-134 
POTASSIUM-3.5 CHLORIDE-96 TOTAL CO2-23 ANION GAP-19
___ 11:40AM   estGFR-Using this
___ 11:40AM   WBC-10.3* RBC-4.28 HGB-10.8* HCT-34.7 MCV-81* 
MCH-25.2* MCHC-31.1* RDW-16.4* RDWSD-48.4*
___ 11:40AM   NEUTS-78.9* LYMPHS-14.2* MONOS-5.9 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-8.14* AbsLymp-1.46 AbsMono-0.61 
AbsEos-0.01* AbsBaso-0.02
___ 11:40AM   PLT COUNT-263
 
Brief Hospital Course:
Ms ___ is a ___ year-old female with prior history of giant 
cell arteritis with resultant partial left visual field loss, 
hypertension, and anxiety/depression who was admitted with 
several month history of progressive weakness/fatigue, gait 
instability, unintentional weight loss, iron deficiency anemia 
(recent endoscopy/colonoscopy within normal limits), recurrent 
defecation/straining pre-syncope/syncope, and recent urinary 
retention of uncertain etiology admitted for further evaluation 
and management. Initial assessment demonstrated evidence of 
urinary tract infection, and she was initially treated with 
intravenous ceftriaxone. 

# Weakness/gait instability
Cortisol stimulation test demonstrated no evidence of adrenal 
insufficiency. She was evaluated by the Neurology consult 
service, without evidence of significant focal deficits other 
than residual left visual field loss, mild sensory deficits in 
her left lower extremity, and nonspecific ataxia. There were 
otherwise no focal motor deficits nor findings to suggest 
cerebellar dysfunction. She underwent MRI head without evidence 
of stroke, bleeding, or mass. There was evidence of degenerative 
cervical spine disease. She was evaluated by Physical Therapy 
and determined to be a good candidate for further ___ treatments 
at home. 

#Catheter-associated UTI
She presented with urinary hesitancy and pyuria in setting of 
recent urinary catheter inserted for treatment of prior urinary 
retention. Her symptoms resolved with treatment with IV 
ceftriaxone, and she was transitioned to PO ciprofloxacin with 
plan to complete a total 7-day course of antibiotics as an 
outpatient. Initial urine culture grew mixed flora, and a repeat 
sample is pending at the time of discharge.

#Microcytic anemia
There was no evidence of active GI bleeding during her 
hospitalization. Given recent reassuring endoscopic/colonoscopic 
findings, she may be an appropriate candidate for capsule 
endoscopy to further evaluate for occult obscure source of 
gastrointestinal blood loss.

#Recurrent pre-syncope/syncope
Suspect vasovagal etiology in setting of straining/defecation. 
Ms ___ reports that similar episodes occurred during her 
teenage years. She had a productive bowel movement during this 
hospitalization without incident. She was monitored on 
continuous telemetry without evidence of significant arrhythmia. 
Cardiac echo was performed, without evidence of significant 
valvular/structural heart disease.

#History of giant cell arteritis
She was continued on her standing low dose of prednisone, which 
has been slowly tapered over the recent weeks.

#Anxiety/depression
She received low-dose lorazepam to assist with sleep at night, 
as well as additional dose to relieve anxiety prior to her MRI 
study.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. predniSONE 2.5 mg oral BID 
2. Lorazepam 0.25 mg PO QHS:PRN insomnia 
3. Docusate Sodium 100 mg PO BID 
4. Senna 8.6 mg PO BID:PRN constipation 
5. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Lorazepam 0.25 mg PO QHS:PRN insomnia 
3. predniSONE 2.5 mg oral BID 
4. Senna 8.6 mg PO BID:PRN constipation 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. Losartan Potassium 100 mg PO DAILY 
7. Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0
8. Amlodipine 5 mg PO DAILY 
9. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Urinary tract infection
Gait instability/weakness
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please follow-up with Dr ___ discharge from the 
hospital.

Please take your medications as prescribed.
 
Followup Instructions:
___